US07285558B2
5-{7-isobutyl-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 5-methyl-1H-indole-3-carbaldehyde, followed by 5-formyl-1-methyl-1H-pyrrole-3-carbonitrile. Mass: 470.26 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 5-methyl-1H-indole-3-carbaldehyde | CC=1C=C2C(=CNC2=CC1)C=O | C10H9NO
reactant | 5-formyl-1-methyl-1H-pyrrole-3-carbonitrile | C(=O)C1=CC(=CN1C)C#N | C7H6N2O
product | 5-{7-isobutyl-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile | C(C(C)C)N1C(N(C(C=2C1=NN(C2C2=CC(=CN2C)C#N)CC2=CNC1=CC=C(C=C21)C)=O)C)=O | C26H27N7O2
